data/mechanism_extracts/JOC/10.1021_acs.joc.1c02557.json
{"doi": "10.1021_acs.joc.1c02557", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative oxysulfonylation of o-vinyl benzoic acids with sulfonyl hydrazides to form γ-sulfonylated phthalide lactones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of sulfonyl hydrazide to sulfonyl radical (via diazo intermediate, loss of N2); second anodic oxidation of benzylic C-radical adduct to a benzylic carbocation; cathodic reduction of protons to H2", "key_intermediates": [{"name": "Sulfonyl diazo intermediate A (R-SO2-N=N•/H)", "smiles": null, "role": "transient"}, {"name": "Sulfonyl radical B (ArSO2•)", "smiles": "Cc1ccc(cc1)S(=O)(=O)[*]", "role": "reactive"}, {"name": "Benzylic carbon radical C from sulfonyl radical addition to o-vinyl benzoic acid", "smiles": null, "role": "reactive"}, {"name": "Benzylic carbocation D (after anodic oxidation of C)", "smiles": null, "role": "reactive"}, {"name": "γ-Sulfonylated phthalide product 3 (after intramolecular carboxylate cyclization and deprotonation)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes sulfonyl hydrazide (−3e−, −3H+) to a diazo species that extrudes N2 to give a sulfonyl radical; this radical adds to the vinyl group of the o-vinyl benzoic acid to form a benzylic C-radical, which is further oxidized at the anode to a benzylic cation that is captured intramolecularly by the ortho-carboxyl oxygen, with cathodic H+ reduction to H2 closing the circuit.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-Diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Only trace 3a formed; radical trapping adduct 5 (Ph2C=CH-Ts type) detected by LC-MS, supporting a sulfonyl radical intermediate"}, {"name": "Triethyl phosphite P(OEt)3", "smiles": "CCOP(OCC)OCC", "purpose": "radical_trap", "observation": "Yield of 3a reduced from 96% to 66%, consistent with a radical pathway"}, {"name": "No-current control", "smiles": null, "purpose": "other", "observation": "No product 3a formed without electric current, confirming electrochemical activation is essential"}, {"name": "Cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks at 1.78 V (1a) and 1.39 V (2a) vs Ag/AgCl, indicating sulfonyl hydrazide 2a is preferentially oxidized at the anode to generate the sulfonyl radical"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Mechanism is consistent with literature precedent (refs 18–20). Radical–polar crossover (oxidation of C-radical to cation D) is invoked rather than direct radical cyclization; ortho-substituted substrates (4n, 4o) failed, attributed to steric hindrance rather than electronic effects."}
